US08912186B2
The solution of ethyl 3-(4-chlorophenyl)-4-nitrobutanoate (2.33 g) in acetic acid (18 ml) was stirred vigorously while iron powder (5.7 g) was added. The suspension was stirred at reflux temperature for 1.5 h. The resulting thick slurry was pored into a mixture of conc. HCl (30 ml) and ice (30 g). The aqueous layer was extracted with dichloromethane (2×50 ml) and the combined organic layers washed with water and dried (sodium sulfate). After evaporation of the solvent the oily residue was distilled with toluene to remove acetic acid whereupon crystallisation took place. The crude was washed with diethyl ether (3×2 ml) and dried in vacuo to afford 4-(4-chlorophenyl)-2-pyrrolidone (0.86 g) as colourless crystals.

reactant | ethyl 3-(4-chlorophenyl)-4-nitrobutanoate | 2.33 g | ClC1=CC=C(C=C1)C(CC(=O)OCC)C[N+](=O)[O-] | C12H14ClNO4
reactant | HCl | 30 ml | Cl | ClH
solvent | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 5.7 g | [Fe] | Fe
product | 4-(4-chlorophenyl)-2-pyrrolidone | 0.86 g | ClC1=CC=C(C=C1)C1CC(NC1)=O | C10H10ClNO
